US06020345
Stage 2: (5-methyl-6-methylaminopyridin-2-yl)methanol
0.96 g of (6-chloro-5-methylpyridin-2-yl)-methanol (6.09 mmol) and 7 ml of methylamine at 33% in ethanol are heated at 120° C in a bomb for 96 hours. 2 ml of methylamine at 33% in ethanol are added every 24 hours. The reaction mixture is concentrated under vacuum and the title compound isolated by chromatography on a silica column (eluent: cyclohexane/ethyl acetate; 40:60).

reactant | (6-chloro-5-methylpyridin-2-yl)-methanol | 6.09 mmol, 0.96 g | ClC1=C(C=CC(=N1)CO)C | C7H8ClNO
reactant | methylamine | 7 ml | CN | CH5N
reactant | methylamine | 2 ml | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
product | (5-methyl-6-methylaminopyridin-2-yl)methanol | Yield: 37% | CC=1C=CC(=NC1NC)CO | C8H12N2O
